US07022690B2
Step D. 2-Allyl-3-[allyl-(4-methoxy-benzenesulfonyl)-amino]-succinic acid 1-benzyl ester 4-tert-butyl ester
Triphenylphosphine (1 g, 3.9 mmol) are solved in 60 ml Tetrahydrofuran (THF) and cooled to 0° C. Diazopropyl dicarboxylate (DIAD) (0.77 ml, 3.9 mmol) are added via syringe and the reaction mixture is stirred for 30 min. Allyl alcohol (16 μl, 0.23 mmol) is added to the yellow suspension and then after 10 min., 2-Allyl-3-(4-methoxy-benzenesulfonylamino)-succinic acid 1-benzyl ester 4-tert-butyl ester (1.4 g, 2.6 mmol) is added. The reaction mixture is stirred for 30 min. at 0° C. and is then allowed to warm to room temp. After evaporation of most of the THF and flash-chromatography with Hexane/Ethylacetate (2:1) the desired product is obtained: 1H NMR (CDCl3 400 MHz), ppm: 7.80 (d, 2H), 7.38 (m, 5H), 6.95 (d, 2H), 5.75 (m, 2H), 5.10 (m, 6H), 3.95 (m, 2H), 3.90 (s, 3H), 3.21 (ddd, 1H), 2.50 (ddd, 1H), 2.35 (ddd, 1H), 1.40 (s, 9H).

reactant | Triphenylphosphine | 3.9 mmol, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Allyl alcohol | 0.23 mmol, 16 μl | C(C=C)O | C3H6O
reactant | 2-Allyl-3-(4-methoxy-benzenesulfonylamino)-succinic acid 1-benzyl ester 4-tert-butyl ester | 2.6 mmol, 1.4 g | C(C)(C)(C)OC(C(C(C(=O)OCC1=CC=CC=C1)CC=C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C25H31NO7S
solvent | Tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-Allyl-3-[allyl-(4-methoxy-benzenesulfonyl)-amino]-succinic acid 1-benzyl ester 4-tert-butyl ester | C(C)(C)(C)OC(C(C(C(=O)OCC1=CC=CC=C1)CC=C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC=C)=O | C28H35NO7S
